US05455252
To a mixture of 6-methyl-8-bromoquinoline (1.0 g), 3-nitrobenzene boronic acid (0.63 g), purchased from Lancaster Chemicals, 2M NaCO3 (1.9 mL), methanol (6.5 mL) and benzene 32 mL) was added palladium tetrakis triphenylphosphine (0.47 g) and heated to reflux for 6 hours. The progress of the reaction was monitored by thin-layer chromatography. Upon completion, the reaction mixture was cooled and the solvents removed. Ethyl acetate was added to the residue and the solution was filtered through a pad of Na2SO4. The solution was concentrated and the desired product was purified and isolated by preparative thin-layer chromatography yielding 6-methyl-8-(3-nitrophenyl)quinoline (983 mg) as a yellow oil. Characteristic analytical data are: elemental analysis [calculate (found)] C: 72.72 (72.63), H: 4.58 (4.32), and N: 10.60 (10.72).

reactant | 6-methyl-8-bromoquinoline | 1.0 g | CC=1C=C2C=CC=NC2=C(C1)Br | C10H8BrN
reactant | 3-nitrobenzene boronic acid | 0.63 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | methanol | 6.5 mL | CO | CH4O
solvent | benzene | 32 mL | C1=CC=CC=C1 | C6H6
product | 6-methyl-8-(3-nitrophenyl)quinoline | 983 mg | CC=1C=C2C=CC=NC2=C(C1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H12N2O2
